US04548932
A mixture of 5N hydrogen chloride-ethyl acetate solution (5 ml) and tert-butyl 3(S)-[1(S)-ethoxycarbonyl-6-phthalimidohexyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate (0.1 g) is allowed to stand at room temperature for 3 hours. The mixture is diluted with petroleum ether (80 ml) to precipitate colorless powder, which is collected and dried in vacuo to give 3(S)-[1(S)-ethoxycarbonyl-6-phthalimidohexyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid hydrochloride (0.08 g).

reactant | hydrogen chloride-ethyl acetate | 5N, 5 ml | C(C)(=O)OCC.Cl
reactant | tert-butyl 3(S)-[1(S)-ethoxycarbonyl-6-phthalimidohexyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate | 0.1 g | C(C)OC(=O)[C@H](CCCCCN1C(C=2C(C1=O)=CC=CC2)=O)N[C@H]2COC1=C(N(C2=O)CC(=O)OC(C)(C)C)C=CC=C1 | C32H39N3O8
product | 3(S)-[1(S)-ethoxycarbonyl-6-phthalimidohexyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid hydrochloride | 0.08 g | Cl.C(C)OC(=O)[C@H](CCCCCN1C(C=2C(C1=O)=CC=CC2)=O)N[C@H]2COC1=C(N(C2=O)CC(=O)O)C=CC=C1 | InChI=1S/C28H31N3O8.ClH/c1-2-38-28(37)20(12-4-3-9-15-30-25(34)18-10-5-6-11-19(18)26(30)35)29-21-17-39-23-14-8-7-13-22(23)31(27(21)36)16-24(32)33;/h5-8,10-11,13-14,20-21,29H,2-4,9,12,15-17H2,1H3,(H,32,33);1H/t20-,21-;/m0./s1
